US08629271B2
b) 2-(4-Chloro-3-(hydroxymethyl)phenyl)ethanol
A solution of borane-methyl sulfide complex (2M in THF, 6.50 mL) was added portionwise over 5 minutes to a solution of 5-(carboxymethyl)-2-chlorobenzoic acid (example 61, step a) (1.37 g) in dry THF (20 mL) at room temperature. The resulting effervescing solution was stirred at room temperature for 1.5 hours, then heated to reflux for 1 hour. The cooled mixture was quenched by the portionwise addition of methanol (5 mL) over 5 minutes. The solution was stirred at room temperature for 2 hours and then purified by flash chromatography on silica eluted with 5% methanol in dichloromethane to afford the subtitled compound as a colourless oil. Yield 0.933 g.

reactant | borane methyl sulfide | 2M, 6.50 mL | B.CSC
reactant | 5-(carboxymethyl)-2-chlorobenzoic acid | C(=O)(O)CC=1C=CC(=C(C(=O)O)C1)Cl | C9H7ClO4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-3-(hydroxymethyl)phenyl)ethanol | ClC1=C(C=C(C=C1)CCO)CO | C9H11ClO2
